US07494993B2
1-(3-Bromo-benzyl)-4-methyl-piperazine
0.30 g 1-Methylpiperazine in 2 ml THF were treated dropwise at RT with a solution of 0.5 g 3-bromobenzyl bromide in 3 ml THF. After stirring for 2 hrs, the mixture was heated to 60 C for 30 min. The solvent was evaporated and the residue chromatographed on silica using a gradient from heptane to heptane/dichloromethane/concentrated ammonia (4/6/0.5).

reactant | 1-Methylpiperazine | 0.30 g | CN1CCNCC1 | C5H12N2
reactant | 3-bromobenzyl bromide | 0.5 g | BrC=1C=C(CBr)C=CC1 | C7H6Br2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 1-(3-Bromo-benzyl)-4-methyl-piperazine | BrC=1C=C(CN2CCN(CC2)C)C=CC1 | C12H17BrN2
